US08222245B2
1,1-Dimethylethyl 7-{5-[4-[(1-methylethyl)oxy]-3-(trifluoro-methyl)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
4-[(1-Methylethyl)oxy]-3-(trifluoromethyl)benzoic acid (Preparation 39) (744 mg, 3.00 mmol), HOBT (446 mg, 3.30 mmol) and EDC (630 mg, 3.30 mmol) were stirred in DMF (28 ml) under argon for 20 minutes. 1,1-dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 41) (915 mg, 3.00 mmol) was added and the mixture stirred at room temperature for 2 hrs before it was heated to 80° C. for 20 hrs. The reaction mixture was partitioned between EtOAc and water and the organic layer washed with aqueous sodium bicarbonate before it was dried in the usual manner and evaporated. The residue was purified by Biotage Horizon, reverse phase cartridge, eluting with 5-100% acetonitrile in water to give the title compound (749 mg, 1.45 mmol). δH (d6DMSO, 400 MHz): 8.40 (1H, dd), 8.31 (1H, d), 7.89 (1H, br.s), 7.86 (1H, dd), 7.58 (1H, d), 7.37 (1H, d), 4.98 (1H, septet), 3.54-3.46 (4H, m), 3.00-2.92 (4H, m), 1.41 (9H, s), 1.36 (6H, d).

reactant | 4-[(1-Methylethyl)oxy]-3-(trifluoromethyl)benzoic acid | 3.00 mmol, 744 mg | CC(C)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C11H11F3O3
reactant | HOBT | 3.30 mmol, 446 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.30 mmol, 630 mg
reactant | 1,1-dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.00 mmol, 915 mg | ONC(C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)=N | C16H23N3O3
solvent | DMF | 28 ml | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 7-{5-[4-[(1-methylethyl)oxy]-3-(trifluoro-methyl)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.45 mmol, 749 mg | CC(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(F)(F)F | C27H30F3N3O4
